US09337430B2
10-(2-Bromobenzyl)-9,9-dimethyl-9,10-dihydroacridine
9.7 g (0.243 mol) of NaH, 60% in mineral oil, are dissolved in 500 ml of dimethylformamide under protective atmosphere. 22.1 g (0.106 mol) of 9,9-dimethyl-9,10-dihydroacridine are dissolved in 500 ml of DMF and added dropwise to the reaction mixture. After 1 h at room temperature, a solution of 60.6 (242 mmol) of 2-bromobenzyl bromide in 500 ml of DMF is added dropwise. The reaction mixture is stirred at room temperature for 1 h, then poured onto ice and extracted three times with dichloromethane. The combined organic phases are dried over Na2SO4 and evaporated. The residue is extracted with hot toluene and recrystallised from toluene/n-heptane. The yield is 37 g (94%).

reactant | NaH | 0.243 mol, 9.7 g | [H-].[Na+]
reactant | 9,9-dimethyl-9,10-dihydroacridine | 0.106 mol, 22.1 g | CC1(C2=CC=CC=C2NC=2C=CC=CC12)C | C15H15N
reactant | 2-bromobenzyl bromide | BrC1=C(CBr)C=CC=C1 | C7H6Br2
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 10-(2-Bromobenzyl)-9,9-dimethyl-9,10-dihydroacridine | BrC1=C(CN2C=3C=CC=CC3C(C3=CC=CC=C23)(C)C)C=CC=C1 | C22H20BrN
